US08183239B2
N-{3-Cyano-4-[4-(ethylcarbamoyl-phenyl-methyl)-piperidin-1-yl]-phenyl}-2-ethyl-butyramide
2-[1-(4-Amino-2-cyano-phenyl)-piperidin-4-yl]-N-ethyl-2-phenyl-acetamide. 2-[1-(2-Cyano-4-nitro-phenyl)-piperidin-4-yl]-N-ethyl-2-phenyl-acetamide was subjected to reaction conditions similar to those described in Step C to provide the title compound as a yellow powder (600 mg, 95%). MS (ESI): mass calcd. for C22H26N4O, 362.47. m/z found, 363.2 [M+H]+.

reactant | 2-[1-(4-Amino-2-cyano-phenyl)-piperidin-4-yl]-N-ethyl-2-phenyl-acetamide | NC1=CC(=C(C=C1)N1CCC(CC1)C(C(=O)NCC)C1=CC=CC=C1)C#N | C22H26N4O
reactant | 2-[1-(2-Cyano-4-nitro-phenyl)-piperidin-4-yl]-N-ethyl-2-phenyl-acetamide | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCC(CC1)C(C(=O)NCC)C1=CC=CC=C1 | C22H24N4O3
product | N-{3-Cyano-4-[4-(ethylcarbamoyl-phenyl-methyl)-piperidin-1-yl]-phenyl}-2-ethyl-butyramide | 600 mg, 95% | C(#N)C=1C=C(C=CC1N1CCC(CC1)C(C1=CC=CC=C1)C(NCC)=O)NC(C(CC)CC)=O | C28H36N4O2
